US09304126B2
tert-Butyl 3-cyanopiperazine-1-carboxylate
To a solution of compound piperazine-2-carbonitrile, prepared as described in the previous step, (90.6 g, 0.492 mol) was added triethylamine (206 mL, 1.476 mol) and Boc2O (117 g, 0.542 mol). The reaction mixture was stirred at room temperature overnight, and then concentrated. The residue was purified by silica gel chromatography to provide the title compound.

reactant | piperazine-2-carbonitrile | N1C(CNCC1)C#N | C5H9N3
reactant | triethylamine | 1.476 mol, 206 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 0.542 mol, 117 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | tert-Butyl 3-cyanopiperazine-1-carboxylate | C(#N)C1CN(CCN1)C(=O)OC(C)(C)C | C10H17N3O2
